US08492549B2
Acetic acid 4-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl ester
To a stirred solution of 1-[4-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl]ethanone (1.62 g, 5.43 mmol) in DCM (60 ml) was added m-chloroperbenzoic acid (2.15 g) and solid NaHCO3 (3.24 g). Stirring was continued at 40° C. for 1 h. The mixture was filtered and the filtrate was washed once with 10% NaHSO4 solution and then twice with NaHCO3 solution. The organic layer was washed with water and brine, dried with Na2SO4. The solvent was removed under reduced pressure. The crude product obtained (1.34 g) was sufficiently pure for the next step.

reactant | 1-[4-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl]ethanone | 5.43 mmol, 1.62 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(C)=O)OC[C@@H]1OC1 | C18H18O4
reactant | m-chloroperbenzoic acid | 2.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 3.24 g | C(=O)(O)[O-].[Na+]
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl ester | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)OC(C)=O)OC[C@@H]1OC1 | C18H18O5
